US05362878
N-(Isoquinolin-5-yl)-2-(4-propylphenoxy)decanoic amide
N-(isoquinolin-5-yl)-2-bromodecanoic amide, prepared according to the procedures described in Examples 3 and 25, was coupled with 4-propylphenol according to the procedure described in Example 6 to give the title compound.

reactant | N-(isoquinolin-5-yl)-2-bromodecanoic amide | C1=NC=CC2=C(C=CC=C12)NC(C(CCCCCCCC)Br)=O | C19H25BrN2O
reactant | 4-propylphenol | C(CC)C1=CC=C(C=C1)O | C9H12O
product | N-(Isoquinolin-5-yl)-2-(4-propylphenoxy)decanoic amide | C1=NC=CC2=C(C=CC=C12)NC(C(CCCCCCCC)OC1=CC=C(C=C1)CCC)=O | C28H36N2O2
